US07741347B2
SOCl2 (6.60 mL, 90.5 mmol) was added drop-wise over 15 min to a cooled (ice-water) mixture of (S)-3-amino-4-(benzyloxy)-4-oxobutanoic acid (10.04 g, 44.98 mmol) and MeOH (300 mL), the cooling bath was removed and the reaction mixture was stirred at ambient condition for 29 hr. Most of the volatile component was removed in vacuo and the residue was carefully partitioned between EtOAc (150 mL) and saturated NaHCO3 solution. The aqueous phase was extracted with EtOAc (150 mL, 2×), and the combined organic phase was dried (MgSO4), filtered, and concentrated in vacuo to afford (S)-1-benzyl 4-methyl 2-aminosuccinate as a colorless oil (9.706 g). 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz): δ 7.40-7.32 (m, 5H), 5.11 (s, 2H), 3.72 (app t, J=6.6, 1H), 3.55 (s, 3H), 2.68 (dd, J=15.9, 6.3, 1H), 2.58 (dd, J=15.9, 6.8, 1H), 1.96 (s, 2H). LC (Cond. 1): RT=0.90 min; LC/MS: Anal. Calcd. for [M+H]+ C12H16NO4: 238.11. found 238.22.

reactant | SOCl2 | 90.5 mmol, 6.60 mL | O=S(Cl)Cl | Cl2OS
reactant | (S)-3-amino-4-(benzyloxy)-4-oxobutanoic acid | 44.98 mmol, 10.04 g | N[C@@H](CC(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | MeOH | 300 mL | CO | CH4O
product | (S)-1-benzyl 4-methyl 2-aminosuccinate | 9.706 g | N[C@H](C(=O)OCC1=CC=CC=C1)CC(=O)OC | C12H15NO4
